US07300935B2
Production of N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-hydroxycyclohexyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea
The similar reaction as described in Example 5 by using 4-(N-benzyl-N-methylaminomethyl)-2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-5-[4-(3-methoxyureido)phenyl]thiophene-3-carboxylic acid (3.19 g, 5 mmol) and trans-4-aminocyclohexanol (1.44 g, 12.5 mmol) gave the title compound (1.80 g, 52%) as colorless crystals.

reactant | 4-(N-benzyl-N-methylaminomethyl)-2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-5-[4-(3-methoxyureido)phenyl]thiophene-3-carboxylic acid | 5 mmol, 3.19 g | C(C1=CC=CC=C1)N(C)CC=1C(=C(SC1C1=CC=C(C=C1)NC(=O)NOC)N(C(=O)OCC)CC1=C(C=CC=C1F)F)C(=O)O | C32H32F2N4O6S
reactant | trans-4-aminocyclohexanol | 12.5 mmol, 1.44 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
product | N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-hydroxycyclohexyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | 1.80 g, 52% | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C(N(C(C21)=O)C2CCC(CC2)O)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C36H37F2N5O5S
